US05391541
A suspension of 6.0 grams (0.023 mole) of 2,3,5-trichlorophenylacetic acid in about 125 mL of carbon tetrachloride was stirred, and 5 mL of thionyl chloride was added. The reaction mixture was then warmed to reflux, where it was stirred for about 30 minutes. After this time the reaction mixture was concentrated under reduced pressure, yielding 6.4 grams of 2,3,5-trichlorophenylacetyl chloride.

reactant | 2,3,5-trichlorophenylacetic acid | 0.023 mole, 6.0 grams | ClC1=C(C=C(C=C1Cl)Cl)CC(=O)O | C8H5Cl3O2
reactant | thionyl chloride | 5 mL | S(=O)(Cl)Cl | Cl2OS
solvent | carbon tetrachloride | about 125 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2,3,5-trichlorophenylacetyl chloride | 6.4 grams | ClC1=C(C=C(C=C1Cl)Cl)CC(=O)Cl | C8H4Cl4O
